US04906658
A. 4-Methyl-7-propanoyloxycoumarone
To a stirred mixture of 7-hydroxy-4-methylcoumarone (88.0 g, 0.5 mole), triethylamine (83.4 mL, 0.6 mole) and tetrahydrofuran (1 L) was added propanoyl chloride (46.27 g 0.5 mole) dropwise. The mixture was poured into cold 0.5 N hydrochloric acid (3 L) slowly with stirring. The solid was collected, washed with water, and dried. mp. 147° C.

reactant | 7-hydroxy-4-methylcoumarone | 0.5 mole, 88.0 g | OC=1C=CC(=C2C=COC12)C | C9H8O2
reactant | triethylamine | 0.6 mole, 83.4 mL | C(C)N(CC)CC | C6H15N
reactant | propanoyl chloride | 0.5 mole, 46.27 g | C(CC)(=O)Cl | C3H5ClO
reactant | hydrochloric acid | 0.5 N, 3 L | Cl | ClH
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
product | 4-Methyl-7-propanoyloxycoumarone | CC1=C2C=COC2=C(C=C1)OC(CC)=O | C12H12O3
